US07244725B2
To a CH2Cl2 (80 ml) solution of chroman-4-ol (3.1 g, 20.6 mmol) and DIEA (8 ml, 42 mmol), at 0° C., was added the MsCl (2.1 ml, 27 mmol) via syringe. After complete addition the cold bath was removed and stirring continued at room temperature. After 15 h the CH2Cl2 was removed in vacuo and the residue dissolved in 80 ml of DMF followed by the addition of NaN3 (1.8 g, 27 mmol). The mixture was heated to 75° C. (oil bath) for 5 h then cooled to room temperature. The mixture was diluted with Et2O (400 ml) and washed with 1 N HCl (2×100 ml); NaHCO3 (2×100 ml) and brine (100 ml). The organic layer was dried over Na2SO4 and concentrated in vacuo to yield the azide as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 7.27–7.21 (m, 2H), 6.97–6.87 (m, 2H), 4.61 (appt, J=3.84 Hz, 1H), 4.31–4.19 (m, 2H), 2.18 (m, 1H), 2.03 (m, 1 H). MS (ESI−) for C9H10N3O m/z 173.0 (M−H)−. The crude azide was dissolved in 60 ml of THF followed by the addition of PPh3 (6.5 g, 25 mmol) and the mixture stirred at room temperature for 30 min. The mixture was treated with 8 ml of H2O and heated to 60° C. (oil bath) overnight. The mixture was concentrated in vacuo and the resulting residue treated with 1 N HCl. The aqueous mixture was extracted with CH2Cl2 then the pH was adjusted to 12 with NaOH and re-extracted with CH2Cl2. The second CH2Cl2 layers were combined; dried over Na2SO4 and concentrated in vacuo to yield 3,4-dihydro-2H-chromen-4-ylamine as a slightly yellow oil. HRMS (ESI+) calcd for C9H11NO m/z 150.0919 (M+H)+. Found 150.0920.

reactant | azide | [N-]=[N+]=[N-]
reactant | PPh3 | 25 mmol, 6.5 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | H2O | 8 ml | O | H2O
reactant | THF | 60 ml | C1CCOC1 | C4H8O
product | 3,4-dihydro-2H-chromen-4-ylamine | O1CCC(C2=CC=CC=C12)N | C9H11NO
